US04312870
The mixture of 4.0 g of ethyl 4-chloroquinolin-3-carboxylate, 2.04 g of 2-hydrazinopyridine and 50 ml of eutectic diphenyl ether-biphenyl is stirred at 110°-130° for 3 hours under nitrogen. After cooling to room temperature it is diluted with diethyl ether, filtered, the solids washed with diethyl ether and dissolved in 100 ml of aqueous sodium hydroxide. The solution is washed with diethyl ether and the pH thereof adjusted to 8.5 by addition of ammonium chloride. The precipitate formed is collected, washed successively with water, methanol and diethyl ether, to yield the 2-(2-pyridyl)-pyrazolo[4,3-c]quinolin-3(5H)-one showing in the IR-spectrum peaks at 887, 865, 853, 788, 780, 765, 756, 737 and 726 cm-1.

reactant | ethyl 4-chloroquinolin-3-carboxylate | 4.0 g | ClC1=C(C=NC2=CC=CC=C12)C(=O)OCC | C12H10ClNO2
reactant | 2-hydrazinopyridine | 2.04 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | diphenyl ether biphenyl | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1.C1(=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2-pyridyl)-pyrazolo[4,3-c]quinolin-3(5H)-one | N1=C(C=CC=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C15H10N4O
